US06277861B1
(±) 7-Amino-1,2-dimethyl-3,4-dihydroisoquinolinium iodide
(±) 7-Amino-1-methyl-3,4-dihydroisoquinoline (0.90 g, 5.6 mmol) in acetone (125 ml) and iodomethane (1.0 ml, 16 mmol) was stirrd at room temperature for 18 h. The resultant precipitate was collected by filtration and dried in vacuo at ambient temperature. The title compound was isolated as an orange powder (1.44 g, 85%). m/z (API): 175 (M)+

reactant | (±) 7-Amino-1-methyl-3,4-dihydroisoquinoline | 5.6 mmol, 0.90 g | NC1=CC=C2CCN=C(C2=C1)C | C10H12N2
reactant | iodomethane | 16 mmol, 1.0 ml | IC | CH3I
solvent | acetone | 125 ml | CC(=O)C | C3H6O
product | (±) 7-Amino-1,2-dimethyl-3,4-dihydroisoquinolinium iodide | [I-].NC1=CC=C2CC[N+](=C(C2=C1)C)C | InChI=1S/C11H15N2.HI/c1-8-11-7-10(12)4-3-9(11)5-6-13(8)2;/h3-4,7H,5-6,12H2,1-2H3;1H/q+1;/p-1
